US04279918
2-(4-acetylaminobenzyl)-1-methylpyrrolidine
Add a solution of 0.78 g of acetyl chloride in 5 ml of benzene dropwise to a solution of 1.9 g of 2-(4-aminobenzyl)-1-methylpyrrolidine and 1 g of triethylamine in 10 ml of benzene. After one hour, concentrate the resulting reaction mixture. Then take it up with water and diethyl ether. Collect the organic phase and concentrate it to obtain the title compound as a yellowish oil.

reactant | acetyl chloride | 0.78 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-(4-aminobenzyl)-1-methylpyrrolidine | 1.9 g | NC1=CC=C(CC2N(CCC2)C)C=C1 | C12H18N2
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-acetylaminobenzyl)-1-methylpyrrolidine | C(C)(=O)NC1=CC=C(CC2N(CCC2)C)C=C1 | C14H20N2O
